US04533664
A mixture of 5.1 g (20 mmols) of methyl 4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide, 3.0 g (23 mmols) of 2-amino-6-chloropyrazine and 400 ml of xylene was refluxed for 12 hours in a nitrogen atmosphere. The methanol formed by the reaction was removed with the aid of a 4 Å molecular sieve arranged in a Soxhlet attachment. After cooling, the reaction mixture was concentrated by evaporation, and the residue was purified by chromatography on a silicagel column, yielding 2.3 g (33% of theory) of N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide.

reactant | methyl 4-hydroxy-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 20 mmols, 5.1 g | OC1=C(NS(C2=C1C=CC=C2)(=O)=O)C(=O)OC | C10H9NO5S
reactant | 2-amino-6-chloropyrazine | 23 mmols, 3.0 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | CO | CH4O
product | N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 2.3 g, 33% | ClC1=CN=CC(=N1)NC(=O)C=1NS(C2=C(C1O)C=CC=C2)(=O)=O | C13H9ClN4O4S
